US03936504
a. 5-Phenyl indane-1,3-dione
A solution of dimethyl 4-phenyl phthalate (bp 0.1 170°-80°C) in ethyl acetate was cyclised to the indane dione as described in Example 16b, m.p. (benzene, petroleum [40°-60°]) 116°C. (Found: C, 80.96; H, 4.70; C15H10O2 requires: C, 81.07; H, 4.54%).

reactant | indane dione | C1(C(CC2=CC=CC=C12)=O)=O | C9H6O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Phenyl indane-1,3-dione | C1(=CC=CC=C1)C=1C=C2C(CC(C2=CC1)=O)=O | C15H10O2
